US08461158B2
A mixture of 95 mg (2 mmol) of 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-N-(4-piperidinyl)-4-pyrimidinamine and 61 mg (6 mmol) of Et3N in 15 mL THF was cooled to 0° C. and 46 mg (4 mmol) of methanesulphonyl chloride was added. The stirred mixture was allowed to warm to room temperature, and after 2 hrs it was diluted with water to give a precipitate of 98 mg (89% yield) of 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-4-pyrimidinamine: mp (MeOH) 191-193° C.; 1H NMR (CDCl3) δ 7.77 (dd, J=8.4. 0.6 Hz, 1H), 7.37 (t, JHF=53.4 Hz, 1H), 7.31 (t, J=8.2 Hz, 1H), 6.79 (d, J=7.6 Hz, 1H), 5.40 (s, 1H), 4.96 (m, 1H), 4.05 (s, 3H), 3.99-3.93 (m, 2H), 3.83 (m, 4H), 3.64 (m, 4H), 2.90 (s, 3H), 2.82 (s, 3H), 2.81 (dt, J=12.0, 2.4 Hz, 2H), 1.91 (dq J=12.3, 4.3 Hz, 2H), 1.85-1.76 (m, 2H); Anal. Calcd. for C24H31F2N7O4S: C, 52.3; H, 5.7; N, 17.8. Found: C, 52.5; H, 5.7; N, 17.9%.

reactant | 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-N-(4-piperidinyl)-4-pyrimidinamine | 2 mmol, 95 mg | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N(C1CCNCC1)C)N1CCOCC1)C=CC=C2OC)F | C23H29F2N7O2
reactant | Et3N | 6 mmol, 61 mg | CCN(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 4 mmol, 46 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-4-pyrimidinamine | 98 mg, 89% yield | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N(C1CCN(CC1)S(=O)(=O)C)C)N1CCOCC1)C=CC=C2OC)F | C24H31F2N7O4S
